US06593333B1
6-Methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]-7-(3-morpholinopropoxy)quinazoline
Using an analogous procedure to that described in Example 26, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline was reacted with N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide to give the title compound in 58% yield; NMR: 1.96 (m, 2H), 2.13 (s, 3H), 3.29 (m, 4H), 3.5 (m, 4H), 3.59 (m, 4H), 3.69 (m, 4H), 3.92 (s, 3H), 4.18 (m, 2H), 7.08 (m, 1H), 7.13 (s, 1H), 7.22 (s, 1H), 7.28 (m, 1H), 7.58 (m, 1H), 7.75 (m, 1H), 7.81 (s, 1H), 8.27 (m, 2H), 9.39 (s, 1H), 10.29 (s, 1H); m/s: M+H+ 614.

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
product | 6-Methoxy-4-[2-methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]-7-(3-morpholinopropoxy)quinazoline | 58% yield | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C33H39N7O5
